US07429609B2
3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-[2-(tetrahydropyran-2-yloxy)-ethoxy]-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl Ester 5-ethyl ester
To a solution of 200 mg of 3-[(E)-2-(4-fluorophenyl)-vinyl]-4-hydroxy-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester in 13 mL of N,N-dimethylformamide were added 196.5 mg of 2-(2-bromoethoxy)-tetrahydropyran and 306.3 mg of cesium carbonate, stirred for 1 hour and 30 minutes at room temperature, stirred at 50° C. for 17 hours, added with 196.5 mg of 2-(2-bromoethoxy)-tetrahydropyran and 306.3 mg of cesium carbonate, stirred for 3 hours at room temperature and for 2 hours at 50° C., added with 554 mg of 2-(2-bromoethoxy)-tetrahydropyran, and further stirred at 50° C. for 4 hours. Then, the reaction solution was added saturated aqueous ammonium chloride, extracted twice with ethyl acetate, and the resultant organic layer was washed once with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography, to afford 147 mg of the title compound as a colorless oil.

reactant | 3-[(E)-2-(4-fluorophenyl)-vinyl]-4-hydroxy-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-ethyl ester | 200 mg | C(C)OC(=O)C=1C(=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)\C=C\C1=CC=C(C=C1)F)O | C23H23FN2O5
reactant | 2-(2-bromoethoxy)-tetrahydropyran | 196.5 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | cesium carbonate | 306.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethoxy)-tetrahydropyran | 196.5 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | cesium carbonate | 306.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(2-bromoethoxy)-tetrahydropyran | 554 mg | BrCCOC1OCCCC1 | C7H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
product | 3-[(E)-2-(4-Fluorophenyl)-vinyl]-4-[2-(tetrahydropyran-2-yloxy)-ethoxy]-1H-indazole-1,5-dicarboxylic acid 1-tert-butyl Ester 5-ethyl ester | 147 mg | C(C)OC(=O)C=1C(=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)\C=C\C1=CC=C(C=C1)F)OCCOC1OCCCC1 | C30H35FN2O7
